US06525207B1
A four-neck flask equipped with a thermometer, stirrer and condenser tube was charged with a tetrahydrofuran solution of vinylmagnesium (24 mmol), and to the solution, toluene (16 ml) was added. At 0° C., a toluene solution of 2-chlorocyclododecanone (2.93 g, 13.5 mol) was added dropwise for reaction for 1 hour. After completion of reaction, 16% hydrochloric acid (5 g) was for hydrolysis, and the solution was separated to take out the organic layer. The organic layer was washed with 2% sodium hydroxide aqueous solution (10 ml). To the obtained toluene solution, added were 30% sodium hydroxide aqueous solution (6.8 g, 51.0 mmol) and tetrabutylammonium chloride (0.0417 g, 0.150 mmol), and the mixture was stirred for reaction at 95° C. for 2 hours. After completion of reaction, the solution was separated to take out the organic layer, and the organic layer was washed with 10% sulfuric acid (5 ml), saturated sodium hydrogencarbonate aqueous solution (10 ml) and a saline solution (10 ml). The solvent was distilled away under reduced pressure, and the residue was distilled for purification under reduced pressure, to obtain 1-vinyl-13-oxabicyclo[10.1.0]tridecane (2.44g, 11.5 mmol, chemical purity 98%, cis form:trans form=58:42). The yield was 85%.

reactant | vinylmagnesium | 24 mmol | C(=C)[Mg]
reactant | 2-chlorocyclododecanone | 13.5 mol, 2.93 g | ClC1C(CCCCCCCCCC1)=O | C12H21ClO
reactant | hydrochloric acid | 5 g | Cl | ClH
reactant | sodium hydroxide | 51.0 mmol, 6.8 g | [OH-].[Na+]
catalyst | tetrabutylammonium chloride | 0.150 mmol, 0.0417 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-vinyl-13-oxabicyclo[10.1.0]tridecane | 11.5 mmol, 2.44g, yield was 85% | C(=C)C12CCCCCCCCCCC2O1 | C14H24O
